US05330985
4.3. N-(2-Aminoethyl)-2-[[3-[4-[[5-methyl-2-(1-methyl ethyl) phenoxy]methyl]piperidin-1-yl]propyl]amino]-pyrimidine-4-carboxamide
2.8 g (4.92 mmol) of 1,1-dimethylethyl 2-[[[2-[[3-[4-[[5-methyl-2-(1-methylethyl)phenoxy]methyl]piperidin-1-yl]propyl]amino]pyrimidin-4-yl]carbonyl]amino]ethylcarbamate in solution in 20 ml of dichloromethane are introduced into a 0.25 l round-bottomed flask, 20 ml of trifluoroacetic acid are then added and the mixture is heated at reflux for 5 h.

reactant | 1,1-dimethylethyl 2-[[[2-[[3-[4-[[5-methyl-2-(1-methylethyl)phenoxy]methyl]piperidin-1-yl]propyl]amino]pyrimidin-4-yl]carbonyl]amino]ethylcarbamate | 4.92 mmol, 2.8 g | CC=1C=CC(=C(OCC2CCN(CC2)CCCNC2=NC=CC(=N2)C(=O)NCCNC(OC(C)(C)C)=O)C1)C(C)C | C31H48N6O4
reactant | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-(2-Aminoethyl)-2-[[3-[4-[[5-methyl-2-(1-methyl ethyl) phenoxy]methyl]piperidin-1-yl]propyl]amino]-pyrimidine-4-carboxamide | NCCNC(=O)C1=NC(=NC=C1)NCCCN1CCC(CC1)COC1=C(C=CC(=C1)C)C(C)C | C26H40N6O2
